US07384967B2
({2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylmethyl}-amino)-acetic acid methyl ester (38 mg, 45%) was prepared from 1-(2-cyclopentanecarbonyl-4-methyl-phenyl)-3-(5-formyl-thiazol-2-yl)-urea (0.072 g, 0.2 mmol) and glycine methyl ester hydrochloride following the general procedure O.

reactant | 1-(2-cyclopentanecarbonyl-4-methyl-phenyl)-3-(5-formyl-thiazol-2-yl)-urea | 0.2 mmol, 0.072 g | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC(=CN1)C=O | C18H19N3O3S
reactant | glycine methyl ester hydrochloride | Cl.COC(CN)=O
product | ({2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylmethyl}-amino)-acetic acid methyl ester | 38 mg, 45% | COC(CNCC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C21H26N4O4S
